US07300951B2
To a solution of methyl N-[(4-bromo-5-chloro thien-2-yl)sulfonyl]-4,4,4,4′,4′,4′-hexafluorovalinate (1.45 g, 2.907 mmol) in THF (20 mL) was added lithium borohydride (LiBH4) (5.82 mL, 11.64 mmol) under N2 atmosphere at 0° C. The reaction was allowed to warm to 25° C. for 19 h. The reaction was cooled to 0° C., quenched with 2N HCl (slow addition), diluted in ether (40 mL) and the organic layer was washed sequentially with 1N aqueous HCl (10 mL), saturated aqueous NaHCO3 (10 mL) and brine (15 mL), then dried over MgSO4, filtered and concentrated to obtain a crude oil (1.3 g). The crude product was purified by the Biotage Flash™ 40 chromatography system, eluent: 1:6 EtOAc-hexanes, to afford 4-bromo-5-chloro-N-[3,3,3-trifluoro-1-(hydroxymethyl)-2-(trifluoromethyl)propyl]thiophene-2-sulfonamide as a white solid (1.13 g, 84.32%).

reactant | methyl N-[(4-bromo-5-chloro thien-2-yl)sulfonyl]-4,4,4,4′,4′,4′-hexafluorovalinate | 2.907 mmol, 1.45 g | BrC=1C=C(SC1Cl)S(=O)(=O)N[C@@H](C(C(F)(F)F)C(F)(F)F)C(=O)OC | C10H7BrClF6NO4S2
reactant | lithium borohydride | 11.64 mmol, 5.82 mL | [BH4-].[Li+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-bromo-5-chloro-N-[3,3,3-trifluoro-1-(hydroxymethyl)-2-(trifluoromethyl)propyl]thiophene-2-sulfonamide | 1.13 g, 84.32% | BrC=1C=C(SC1Cl)S(=O)(=O)NC(C(C(F)(F)F)C(F)(F)F)CO | C9H7BrClF6NO3S2
